US06498170B2
4-Butoxy-benzenesulfonic acid 4-{3-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-ylamino]-2-hydroxy-propoxy}-phenyl ester
To a solution of 4-butoxy-benzenesulfonic acid 4-(3-{[1-(4-butoxybenzene-sulfonyl)azetidin-3-yl]-tert-butoxycarbonyl-amino}-2-hydroxy-propoxy)-phenylester (0.12 g, 0.15 mmol) in dichloromethane (2 ml) was added trifluoroacetic acid (0.12 ml, 1.5 mmol). The mixture was stirred at room temperature for 4 h, and then quenched with saturated sodium carbonate solution and extracted with dichloromethane. The organic solution was washed with brine, dried over sodium sufate, and evaporated to give 0.10 g of a white solid; MS (ES) m/z 663.1 (MH+); HRMS (ES) Calcd. for C32H43N2O9S2 (MH+): 663.2410, Found: 663.2401.

reactant | 4-butoxy-benzenesulfonic acid 4-(3-{[1-(4-butoxybenzene-sulfonyl)azetidin-3-yl]-tert-butoxycarbonyl-amino}-2-hydroxy-propoxy)-phenylester | 0.15 mmol, 0.12 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)N(CC(COC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)OCCCC)O)C(=O)OC(C)(C)C | C37H50N2O11S2
reactant | trifluoroacetic acid | 1.5 mmol, 0.12 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-Butoxy-benzenesulfonic acid 4-{3-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-ylamino]-2-hydroxy-propoxy}-phenyl ester | 0.10 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)NCC(COC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)OCCCC)O | C32H42N2O9S2
